US04621084
5-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-(pyridin-3-ylmethyl)-2-benzothiazolinone (0.92 g) was prepared in substantially the same manner as that of Example 47 from 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone (1.48 g) and 3-chloromethylpyridine (1.27 g). mp. 201°-202° C.

reactant | 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone | 1.48 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(NC(S1)=O)C2 | C16H13N3OS
reactant | 3-chloromethylpyridine | 1.27 g | ClCC=1C=NC=CC1 | C6H6ClN
product | 5-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-3-(pyridin-3-ylmethyl)-2-benzothiazolinone | 0.92 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(S1)=O)CC=1C=NC=CC1)C2 | C22H18N4OS
